US04503252
1,3-dihydroxy-2-diethylamino-propane
This compound is obtained in a similar manner by heating 69.3 g of 1,3-dimethoxy-isopropyl chloride with 110 g of diethylamine in an autoclave and hydrolyzing the 1,3-dimethoxy-2-diethylamino-propane obtained (boiling point 65° C. at 16 torr) by boiling it with azeotropic, aqueous hydrochloric acid.

reactant | diethylamine | 110 g | C(C)NCC | C4H11N
reactant | 1,3-dimethoxy-2-diethylamino-propane | COCC(COC)N(CC)CC | C9H21NO2
reactant | hydrochloric acid | Cl | ClH
product | 1,3-dihydroxy-2-diethylamino-propane | OCC(CO)N(CC)CC | C7H17NO2
